US06166208
Process A Intermediate: Synthesis of 2,3-Dihydro-6-iodo-3-propyl-2-thioxo-4(1H)-quinazolinone
Carbon disulfide (16.4 mL, 0.28 mole) was added to a solution of potassium hydroxide (18.4 g, 0.28 mol) in water (100 mL). The reaction mixture was then cooled to 1 1° C. and n-propylamine (16.6 g, 0.28 mol) was added. An exotherm to 14° C. was observed and the reaction mixture became an orange slurry. The mixture was heated at 60° C. for 1 h and then cooled to 17° C. Ethyl chloroformate (32 g, 0.30 mole) was then added over a 30 min period allowing the temperature to rise to 25° C. Additional potassium hydroxide (9.2 g, 0.14 mol) was then added. After stirring for 20 min, 5-iodoanthranilic acid (26.4 g, 0.10 mol) was added and the resulting tan slurry was heated to 75° C. After 4.5 h, the reaction mixture was cooled to room temperature. Concentrated aqueous HCl was added to reduce the pH from 10 to 2. The aqueous phase was decanted from the oily solids, and the solids were washed two times with water (100 mL each). Methanol (100 mL) was added to crystallize the produce. The solids were recovered by filtration, washed with methanol (2 times with 15 mL), and dried. The 2,3-dihydro-6-iodo-3-propyl-2-thioxo-4(1H)-quinazolinone weighed 27.8 g and had a melting point of 267-269° C.

reactant | Carbon disulfide | 0.28 mole, 16.4 mL | C(=S)=S | CS2
reactant | potassium hydroxide | 0.28 mol, 18.4 g | [OH-].[K+]
reactant | n-propylamine | 0.28 mol, 16.6 g | C(CC)N | C3H9N
reactant | Ethyl chloroformate | 0.30 mole, 32 g | ClC(=O)OCC | C3H5ClO2
reactant | potassium hydroxide | 0.14 mol, 9.2 g | [OH-].[K+]
reactant | 5-iodoanthranilic acid | 0.10 mol, 26.4 g | IC1=CC=C(C(C(=O)O)=C1)N | C7H6INO2
reactant | HCl | Cl | ClH
solvent | water | 100 mL | O | H2O
product | 2,3-Dihydro-6-iodo-3-propyl-2-thioxo-4(1H)-quinazolinone | IC=1C=C2C(N(C(NC2=CC1)=S)CCC)=O | C11H11IN2OS
